US07098195B2
2-acetamido-1,3,6-tri-O-acetyl-2,4-dideoxy-4-fluoro-D-glucopyranose
A solution of 2-acetamido-4-fluoro-2,4-dideoxy-D-glucopyranose (1.35 g, 6.048 mmol) in a mixture of pyridine (50 ml) and acetic anhydride (25 ml, 27 g, 264 mmol) was stirred at room temperature for 24 hours at which time no starting material but two close spots appeared by TLC. Stirring continued for another 15 hours. Solvent was then removed by evaporation in vacuo; the residue was now co-evaporated with toluene (4×50 ml) then dried in vacuo. This material was now adsorbed on 5 g of silica gel then placed on a silica gel column (45 g, 20×360 mm) poured in CH2Cl2/acetone (8:1). The column was eluted with 500 ml of CH2Cl2/acetone (8:1) followed by 500 ml of CH2Cl2/CH3OH (7:3). The product and trailing spots eluted immediately, with virtually no separation. The CH2Cl2/CH3OH flush produced a trailing spot. All were evaporated and dried in vacuo.

reactant | 2-acetamido-4-fluoro-2,4-dideoxy-D-glucopyranose | 6.048 mmol, 1.35 g | C(C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)F)CO | C8H14FNO5
reactant | acetic anhydride | 264 mmol, 25 ml, 27 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetamido-1,3,6-tri-O-acetyl-2,4-dideoxy-4-fluoro-D-glucopyranose | C(C)(=O)N[C@H]1C(OC(C)=O)O[C@@H]([C@H]([C@@H]1OC(C)=O)F)COC(C)=O | C14H20FNO8
